US07625932B2
Preparation of 4-(2-Fluoro-phenoxy)-iodobenzene
Add isoamylnitrite (2.45 g, 2.5 Eq.) to 4-(2-fluoro-phenoxy)-phenylamine (1.70 g, 8.37 mmol) and diiodomethane (7.84 g, 3.5 Eq.) in acetonitrile (10 mL) while stirring at 55° C. under a nitrogen atmosphere. Slowly heat mixture to 75° C. and heat at this temperature for 3 hours. Cool to room temperature and pour into water, and extract the desired material into ethyl acetate. Wash this organic layer once with water, dry over potassium carbonate, filter, and concentrate under reduced vacuum to give 2.41 g of an oil. Purify the material by silica gel chromatography (Prep. 2000) eluting with hexane/methylene chloride 9:1 to provide 1.60 g of the title compound as a thin oil. Mass spectrum (m/e): 314.0 (M*): (Bruker 300) 1H NMR (CDCl3) δ 7.55-7.60 (2H, d), 7.02-7.20 (4H, m), 6.69-6.72 (2H, d).

reactant | isoamylnitrite | 2.45 g, 2.5 Eq. | C(CC(C)C)ON=O | C5H11NO2
reactant | 4-(2-fluoro-phenoxy)-phenylamine | 8.37 mmol, 1.70 g | FC1=C(OC2=CC=C(C=C2)N)C=CC=C1 | C12H10FNO
reactant | diiodomethane | 7.84 g, 3.5 Eq. | ICI | CH2I2
reactant | water | O | H2O
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 4-(2-Fluoro-phenoxy)-iodobenzene | 2.41 g | FC1=C(OC2=CC=C(C=C2)I)C=CC=C1 | C12H8FIO
